US06509341B1
2-(4,6-Dimethylpyrimidin-2-yloxy)-3-(2-(3,4-dimethoxybenzoyl-amino)ethoxy)-3,3-diphenylpropionic acid (II-62)
A solution of 1.0 g (2.5 mmol) of 2-(4,6-dimethylpyrimidin-2-yloxy)-3-(2-aminoethoxy)-3,3-diphenylpropionic acid in 10 ml of methylene chloride was successively admixed at room temperature with 0.35 g (2.7 mmol) of N-ethyldiisopropylamine, 0.03 g (0.2 mmol) of dimethylaminopyridine and 0.54 g (2.7 mmol) of 3,4-dimethoxybenzoyl chloride. The mixture was stirred at room temperature for 4 days and then diluted with diethyl ether and extracted with 1M hydrochloric acid and 1M aqueous sodium hydroxide solution, and the combined alkaline phases were made acidic and extracted with ether. The organic phase was dried over sodium sulfate, the solvent was distilled off and the residue (0.9 g) was chromatographed over silica gel (methylene chloride/methanol 9:1). Yield: 280 mg of a white foam.

reactant | 2-(4,6-dimethylpyrimidin-2-yloxy)-3-(2-aminoethoxy)-3,3-diphenylpropionic acid | 2.5 mmol, 1.0 g | CC1=NC(=NC(=C1)C)OC(C(=O)O)C(C1=CC=CC=C1)(C1=CC=CC=C1)OCCN | C23H25N3O4
reactant | N-ethyldiisopropylamine | 2.7 mmol, 0.35 g | C(C)N(C(C)C)C(C)C | C8H19N
reactant | dimethylaminopyridine | 0.2 mmol, 0.03 g | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | 3,4-dimethoxybenzoyl chloride | 2.7 mmol, 0.54 g | COC=1C=C(C(=O)Cl)C=CC1OC | C9H9ClO3
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | diethyl ether | C(C)OCC | C4H10O
product | 2-(4,6-Dimethylpyrimidin-2-yloxy)-3-(2-(3,4-dimethoxybenzoyl-amino)ethoxy)-3,3-diphenylpropionic acid | CC1=NC(=NC(=C1)C)OC(C(=O)O)C(C1=CC=CC=C1)(C1=CC=CC=C1)OCCNC(C1=CC(=C(C=C1)OC)OC)=O | C32H33N3O7
